US08981084B2
6-((3-Methyl-4-(3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)benzoyl)piperazin-1-yl)methyl)nicotinonitrile
This compound was synthesized from 6-((3-methylpiperazin-1-yl)methyl)nicotinonitrile TFA salt and 3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)benzoic acid as described for example 37 step 3 (60 mg, yield 21%) pale yellow viscous liquid. 1H NMR (400 MHz, MeOD) δ 8.85-8.84 (m, 1H), 8.25-8.22 (dt, J=7.4 Hz, 1.6 Hz, 1H), 8.19-8.16 (dd, J=8.2 Hz, 2.1 Hz, 1H), 8.13 (m, 1H), 7.82-7.80 (d, J=8.3 Hz, 1H), 7.72-7.66 (m, 2H), 3.82-3.70 (m, 3H), 3.50 (m, 2H), 2.89 (m, 1H), 2.74 (m, 1H), 2.43-2.41 (m, 1H), 2.31-2.25 (m, 1H), 1.46-1.44 (d, J=6.5 Hz, 3H). MS (ESI) m/z: Calculated for C22H16F3N6O2: 456.15. found: 457.2 (M+H)+

reactant | 6-((3-methylpiperazin-1-yl)methyl)nicotinonitrile TFA salt | OC(=O)C(F)(F)F.CC1CN(CCN1)CC1=NC=C(C#N)C=C1
reactant | 3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)benzoic acid | FC(C1=NC(=NO1)C=1C=C(C(=O)O)C=CC1)(F)F | C10H5F3N2O3
product | 6-((3-Methyl-4-(3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)benzoyl)piperazin-1-yl)methyl)nicotinonitrile | 60 mg, yield 21% | CC1CN(CCN1C(C1=CC(=CC=C1)C1=NOC(=N1)C(F)(F)F)=O)CC1=NC=C(C#N)C=C1 | C22H19F3N6O2
